US04266056
To α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide (1.2 g), dissolved in about 5 ml of boiling ethanol, is added 0.6 g of 2,6-dimethylaniline. The reaction is refluxed for several hours and then hexane is added. On cooling, the reaction is filtered, and washed with ethanol and ether to give α-cyano-β-(2,6-dimethylanilino)-N-ethoxycarbonylacrylamide, m.p. 138°-140°.

reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | 1.2 g | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
reactant | 2,6-dimethylaniline | 0.6 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | about 5 ml | C(C)O | C2H6O
product | α-cyano-β-(2,6-dimethylanilino)-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=CNC1=C(C=CC=C1C)C | C15H17N3O3
